US08304446B2
N1-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-methylalaninamide
A mixture of N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride (for a preparation see intermediate 4) (529 mg, 1.06 mmol), N—BOC-alpha-methylalanine (Sigma) (248 mg, 1.22 mmol), HATU (503 mg, 1.32 mmol) was stirred in DMF (2 mL) and DIPEA (0.75 mL, 4.4 mmol) until the mixture dissolved and then stood overnight at room temperature. The mixture was then treated with TFA (1.5 mL, 19.5 mmol) at room temperature and after 45 min more TFA (1.5 mL, 19.5 mmol) added. After 1.5 h more TFA (1 mL) was added and the mixture was stirred for 18 h. The mixture was concentrated under reduced pressure and the residue was loaded in methanol and purified by SPE on ion exchange cartridge (SCX-2) 50 g eluting with MeOH, followed by 10% aqueous ammonia in MeOH. The appropriate ammoniacal fractions were combined and evaporated in vacuo to give the crude product. The sample was dissolved in 1:1 MeOH-DMSO 8 mL and purified by Mass Directed AutoPrep on Xbridge column using Acetonitrile Water with an ammonium carbonate modifier (Method C) collecting the peak with RT˜6.0 min. The solvent was evaporated in vacuo to give the title compound (242 mg, 42%): LCMS (System C) RT=2.01 min, ES+ve m/z 548/550 (M+H)+; NMR δ (CD3OD) 7.26-7.13 (4H, m), 7.10 (1H, br d, J 7 Hz), 7.05 (1H, br s), 6.92 (1H, d, J 8 Hz), 6.86 (1H, d, J 4 Hz), 6.40 (1H, d, J 8 Hz), 5.45 (2H, s), 4.31 (2H, s), 3.77 (3H, s), 1.31 (6H, s).

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | N—BOC-alpha-methylalanine | 1.22 mmol, 248 mg | C(=O)(OC(C)(C)C)NC(C)(C(=O)O)C | C9H17NO4
reactant | HATU | 1.32 mmol, 503 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.4 mmol, 0.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 19.5 mmol, 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 19.5 mmol, 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH DMSO | 8 mL | CO.CS(=O)C
product | N1-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-methylalaninamide | 242 mg, 42% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C=CC1)CNC(C(N)(C)C)=O | C24H26ClN5O4S2
